Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pituitary macroadenoma
 
Major Surgical or Invasive Procedure:
___ Endoscopic transphenoidal pituitary resectomy for tumor

 
History of Present Illness:
Elective admission for a transphenoidal resection
 
Past Medical History:
DM
HTN
HLD
Chronic back pain

 
Social History:
___
Family History:
Father and brother MI, lung cancer in uncle

 
Physical ___:
Upon discharge:
xxxxxxxxx
 
Pertinent Results:
___xpected postoperative appearance after transsphenoidal 
resection of a sellar mass. 

___ Pathology:
1.  Pituitary tumor, biopsy:
Findings consistent with adenoma with extensive necrosis.

2.  Pituitary tumor, excision:
Findings consistent with adenoma with extensive necrosis.

Note: Given the extensive necrosis, immunostains for hormonal 
markers
will not be performed
 
Brief Hospital Course:
Patient was elective admitted and underwent a transphenoidal 
resection for a pituitary macroadenoma. The patient tolerated 
the procedure well and recovered in the PACU. A head CT was done 
that did not reveal a post operative hemorrhge. 

An endocrine consult was called and serum sodiums were followed 
closely and remained stable.  ENT removed patients nasal packing 
on ___ and patient was discharged home on ___.

 
Medications on Admission:
GlipiZIDE 5 mg PO DAILY, MetFORMIN (Glucophage) 500 mg PO BID 
TraMADOL (Ultram) 50 mg PO Q6H:PRN pain, Albuterol Inhaler 2 
PUFF IH Q6H:PRN sob, Atorvastatin 40 mg PO DAILY, 
Hydrochlorothiazide 25 mg PO DAILY, Lisinopril 40 mg PO DAILY, 
Propranolol 60 mg ORAL DAILY, Terazosin 1 mg PO HS. 
Acetaminophen 500 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
2. Atorvastatin 40 mg PO DAILY 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Propranolol LA 60 mg PO DAILY 
6. Terazosin 2 mg PO HS 
7. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth ___ h Disp #*45 Tablet 
Refills:*0
8. Docusate Sodium 100 mg PO BID constipation 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pituitary macroadenoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Transphenoidal Excision of Tumor
Dr. ___

•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
•Clearance to drive and return to work will be addressed at 
your post-operative office visit.
•Continue Sinus Precautions for an additional two weeks.  This 
means, no use of straws, forceful blowing of your nose, or use 
of your incentive spirometer. 
 

CALL YOUR DOCTOR IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
•It is normal for feel nasal fullness for a few days after 
surgery, but if you begin to experience drainage or salty taste 
at the back of your throat, that resembles a “dripping” 
sensation, or persistent, clear fluid that drains from your nose 
that was not present when you were sent home, please call. 
•Fever greater than or equal to 101° F.
•If you notice your urine output to be increasing, and/or 
excessive, and you are unable to quench your thirst, please call 
your endocrinologist. 

 
Followup Instructions:
___